US07179819B2
To a stirred solution of oxalyl chloride (0.3 ml, 3.3 mmol) in CH2Cl2 (30.0 ml) was added DMSO (6.6 ml, 0.51 mmol) at −78° C. After 5 minutes, to the mixture was added 1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinemethanol (1.2 g, 3.0 mmol) in CH2Cl2 (5.0 ml). The mixture was stirred for 30 minutes at −78° C., and triethylamine (2.1 ml, 15.0 mmol) was added. The mixture was stirred for 30 minutes at −78° C., and stirred for 30 minutes at room temperature. Water was added to the mixture, and extracted with CH2Cl2. The extract was washed with water, then dried over Na2SO4, and concentrated in vacuo. The crude product was used to the subsequent reaction without further purification. To a stirred solution of the crude product, benzyl cis-4-aminocyclohexanecarboxylate (769 mg, 3.3 mmol), and AcOH (0.32 ml) in DCE (10 ml) was added NaBH(OAc)3 (1.1 g, 5.4 mmol) at 0° C. The reaction mixture was stirred at room temperature for 18 hr. The mixture was concentrated in vacuo. Sat. NaHCO3 was added to the residue, and extracted with CH2Cl2. The extract was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel with MeOH—CH2Cl2 (1:9, v/v) as eluent to give benzylcis-4-[[1-[3-methoxy-4-[N′-(2-methylphenyl) ureido]phenylacetyl]-2-pyrrolidinyl]methylamino]cyclohexanecarboxylate (1.5 g, 83%) as an amorphous solid. 1H-NMR (CDCl3) δ 1.40–1.65 (m, 6H), 1.80–1.98 (m, 6H), 2.26 (s, 3H), 2.45–2.65 (m, 3H), 2.81–2.86 (m, 1H), 3.44–3.46 (m, 2H), 3.56 (s, 2H), 3.67 (s, 3H), 3.90–4.15 (m, 1H), 5.09 and 5.11 (each s, total 2H), 6.74–6.83 (m, 3H), 7.07–7.20 (m, 4H), 7.31–7.35 (m, 5H), 7.53–7.55 (m, 1H), 8.02–8.06 (m, 1H).

reactant | oxalyl chloride | 3.3 mmol, 0.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.51 mmol, 6.6 ml | CS(=O)C | C2H6OS
reactant | 1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinemethanol | 3.0 mmol, 1.2 g | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N1C(CCC1)CO | C22H27N3O4
reactant | triethylamine | 15.0 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl cis-4-aminocyclohexanecarboxylate | 3.3 mmol, 769 mg | N[C@H]1CC[C@H](CC1)C(=O)OCC1=CC=CC=C1 | C14H19NO2
reactant | NaBH(OAc)3 | 5.4 mmol, 1.1 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 30.0 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5.0 ml | C(Cl)Cl | CH2Cl2
solvent | DCE | 10 ml | ClCCCl | C2H4Cl2
solvent | AcOH | 0.32 ml | CC(=O)O | C2H4O2
solvent | Water | O | H2O
product | benzylcis-4-[[1-[3-methoxy-4-[N′-(2-methylphenyl) ureido]phenylacetyl]-2-pyrrolidinyl]methylamino]cyclohexanecarboxylate | 1.5 g, 83% | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)NCC1N(CCC1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C36H44N4O5
